US05559141
1-benzyl-5-[4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole is prepared from 1-bromo-3-(4-fluorophenyl)propane and 1-benzyl-5-imidazole carbaldehyde by the same method described in example 7a).

reactant | 1-bromo-3-(4-fluorophenyl)propane | BrCCCC1=CC=C(C=C1)F | C9H10BrF
reactant | 1-benzyl-5-imidazole carbaldehyde | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
product | 1-benzyl-5-[4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)O | C20H21FN2O
